US06077851
N-Ethyl-N-phenyl-1,2-dihydro-4-hydroxy-5-bromo-1-methyl-2-oxo-quinoline-3-carboxamide (Method C)
To an ice-cold solution of 1,2-dihydro-4-hydroxy-5-bromo-1-methyl-2-oxo-quinoline-3-carboxylic acid (9.6 g, 0.032 mol), triethylamine (15.5 ml, 0.11 mol) and N-ethylaniline (4.2 g, 0.035 mol) in 150 ml of dichloromethane was added dropwise during 0.5 hours a solution of thionyl chloride (3.0 ml, 0.042 mol) in 10 ml of dichloromethane. The stirring was continued at 4° C. for 24 hours. The solvents were evaporated. The residue was dissolved in ethyl acetate, filtered through celite and extracted with 2 M sodium hydroxide. The aqueous phase was washed with ethyl acetate and then acidified with hydrochloric acid to pH 5. On standing a crystalline precipitate was formed which was filtered off, washed with water and dried to give the title compound (8.5 g), yield 69%.

reactant | 1,2-dihydro-4-hydroxy-5-bromo-1-methyl-2-oxo-quinoline-3-carboxylic acid | 0.032 mol, 9.6 g | OC1=C(C(N(C2=CC=CC(=C12)Br)C)=O)C(=O)O | C11H8BrNO4
reactant | triethylamine | 0.11 mol, 15.5 ml | C(C)N(CC)CC | C6H15N
reactant | N-ethylaniline | 0.035 mol, 4.2 g | C(C)NC1=CC=CC=C1 | C8H11N
reactant | thionyl chloride | 0.042 mol, 3.0 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-Ethyl-N-phenyl-1,2-dihydro-4-hydroxy-5-bromo-1-methyl-2-oxo-quinoline-3-carboxamide | 8.5 g, yield 69% | C(C)N(C(=O)C=1C(N(C2=CC=CC(=C2C1O)Br)C)=O)C1=CC=CC=C1 | C19H17BrN2O3
